US03979360
Preparation of N,N-di-n-octyl-4-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)-3,5-di-tert-butylbenzamide
To 4.83 grams of di-n-octylamine and 2.0 grams of triethylamine dissolved in 40 ml of toluene was added dropwise at 35° to 40° over a period of 10 minutes 10.0 grams of 4-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)-3,5-di-tert-butyl-benzoyl chloride dissolved in 30 ml of toluene. The reaction mixture was stirred at 85° to 90°C for 2 hours. After cooling to room temperature, the reaction mixture was filtered to remove the precipitated triethylamine hydrochloride. The filtrate was washed with water and dried over anhydrous sodium sulfate. After removal of the toluene by distillation, the product was isolated as white crystals (m.p. 145°-146°) by successive crystallization from acetonitrile and isopropanol.

reactant | di-n-octylamine | 4.83 grams | C(CCCCCCC)NCCCCCCCC | C16H35N
reactant | triethylamine | 2.0 grams | C(C)N(CC)CC | C6H15N
reactant | 4-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)-3,5-di-tert-butyl-benzoyl chloride | 10.0 grams | C(C)(C)(C)C=1C=C(C(=O)OC2=C(C=C(C(=O)Cl)C=C2C(C)(C)C)C(C)(C)C)C=C(C1O)C(C)(C)C | C30H41ClO4
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-di-n-octyl-4-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)-3,5-di-tert-butylbenzamide | C(CCCCCCC)N(C(C1=CC(=C(C(=C1)C(C)(C)C)OC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C(C)(C)C)=O)CCCCCCCC | C46H75NO4
